US07759389B2
To a solution of 2-Ethoxycarbonyl-2-[7-(3-fluoro-benzenesulfonyl)-chroman-4-yl]-malonicacid diethyl ester (5.0 g, 9.6 mmol) in MeOH (50 ml) was added NaOH (25 ml, 3N in H2O). The milky mixture was heated at 65° C. overnight. The solvent was evaporated to give crude 2-Carboxy-2-[7-(3-fluoro-benzenesulfonyl)-chroman-4-yl]-malonic acid as a solid.

reactant | 2-Ethoxycarbonyl-2-[7-(3-fluoro-benzenesulfonyl)-chroman-4-yl]-malonicacid diethyl ester | 9.6 mmol, 5.0 g | C(C)OC(C(C(=O)OCC)(C1CCOC2=CC(=CC=C12)S(=O)(=O)C1=CC(=CC=C1)F)C(=O)OCC)=O | C25H27FO9S
reactant | NaOH | 3N, 25 ml | [OH-].[Na+]
solvent | MeOH | 50 ml | CO | CH4O
product | 2-Carboxy-2-[7-(3-fluoro-benzenesulfonyl)-chroman-4-yl]-malonic acid | C(=O)(O)C(C(=O)O)(C(=O)O)C1CCOC2=CC(=CC=C12)S(=O)(=O)C1=CC(=CC=C1)F | C19H15FO9S
